US06924276B2
Diisopropylethylamine (3.33 g, 25.8 mmol) was added to a stirred suspension of 5-methyl-4-amino-thiophene-2-carboxylic acid hydrochloride (1.4 g, 7.0 mmol) in tetrahydrofuran (25 mL) under an inert atmosphere at room temperature. After 1½ hours, phenylacetyl chloride (1.1 g, 7.2 mmol) was added. After 24 hours, the mixture was diluted with water (200 mL) and acidified with dilute aqueous hydrochloric acid. After 12 hours the precipitate was filtered off, rinsed with water, and dried to afford 1.5 g of 5-methyl-4-phenylacetylamino-thiophene-2-carboxylic acid. Recrystallization of a sample from acetonitrile gave product with a mp 249-250° C.

reactant | Diisopropylethylamine | 25.8 mmol, 3.33 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-methyl-4-amino-thiophene-2-carboxylic acid hydrochloride | 7.0 mmol, 1.4 g | Cl.CC1=C(C=C(S1)C(=O)O)N
reactant | phenylacetyl chloride | 7.2 mmol, 1.1 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 5-methyl-4-phenylacetylamino-thiophene-2-carboxylic acid | 1.5 g | CC1=C(C=C(S1)C(=O)O)NC(CC1=CC=CC=C1)=O | C14H13NO3S
